US06002008
4-Chloro-6,7-dimethoxy-3-quinolinecarbonitrile
A stirred mixture of 20 g of 1,4-dihydro-6,7-dimethoxy-4-oxo-3-quinolinecarbonitrile and 87 ml of phosphorous oxychloride was refluxed for 2 h, cooled, and evaporated free of volatile matter. The residue was stirred at 0° C. with dichloromethane-water as solid sodium carbonate was added until the aqueous layer was pH 8. The organic layer was separated, washed with water, dried and concentrated. Recrystallization from dichloromethane gave a solid, mp 220-223° C.

reactant | 1,4-dihydro-6,7-dimethoxy-4-oxo-3-quinolinecarbonitrile | 20 g | COC=1C=C2C(C(=CNC2=CC1OC)C#N)=O | C12H10N2O3
reactant | phosphorous oxychloride | 87 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-Chloro-6,7-dimethoxy-3-quinolinecarbonitrile | ClC1=C(C=NC2=CC(=C(C=C12)OC)OC)C#N | C12H9ClN2O2
